US05705499
2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(phenyloxy)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
Using a procedure analogous to that described in Example 98, except sodium bis(trimethylsilyl)amide was employed as the base instead of potassium tert-butoxide, the title compound, m.p. 140°-141° C., was prepared from 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and phenol. The yield was 78% of theory.

reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCl)=O)C | C15H14Cl2N4O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(phenyloxy)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | yield was 78% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)COC3=CC=CC=C3)=O)C | C21H19ClN4O2
